US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (0.51 g, 1.16 mmol) was reacted with NBS (0.21 g, 1.16 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.52 g, 86%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 1.16 mmol, 0.51 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=CN1)F | C17H14BrF2N3O2S
reactant | NBS | 1.16 mmol, 0.21 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.52 g, 86% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC(=CN1)F | C17H13Br2F2N3O2S
